US03957757
A mixture of 5 gm of 2-chloro-9-hydroxymethyl-9-(β-dimethylaminoethyl)-10-methyl-acridane, 150 cc of xylene and 25 gm of phosphoric acid anhydride was refluxed for 3 hours under a nitrogen atmosphere and after cooling, the reaction mixture was poured into a water-ice mixture. The mixture was made alkaline by the addition of 35cc sodium hydroxide solution and was extracted with ethyl acetate. The organic phase was washed with an aqueous sodium chloride solution, dried over magnesium sulfate, treated with charcoal, filtered and evaporated to dryness to obtain 3.9 gm of raw 8-chloro-5-methyl-10-(β-dimethylaminoethyl)dibenzo (b,f) azepine. The 3.9 gm of raw product were dissolved in 15 cc of methanol and a solution of 1.2 gm of fumaric acid in 45 cc of methanol was added thereto. The methanol was distilled off and replaced with ethyl acetate and the mixture was then refrigerated for 48 hours for crystallization and filtered. The precipitate was washed with ethyl acetate and dried to obtain 2.8 gm, fumarate of 8-chloro-5-methyl-10-(β-dimethylaminoethyl)-dibenzo (b,f) azepine melting at 150°C, then 164°C. Cooling of the mother liquors gave a second crop of 0.25 g of product.

reactant | 2-chloro-9-hydroxymethyl-9-(β-dimethylaminoethyl)-10-methyl-acridane | 5 gm | ClC1=CC=2C(C3=CC=CC=C3N(C2C=C1)C)(CCN(C)C)CO | C19H23ClN2O
reactant | phosphoric acid anhydride | 25 gm | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | sodium hydroxide | 35cc | [OH-].[Na+]
solvent | xylene | 150 cc | C=1(C(=CC=CC1)C)C | C8H10
product | 8-chloro-5-methyl-10-(β-dimethylaminoethyl)dibenzo (b,f) azepine | 3.9 gm | ClC=1C=CC2=C(C(=CC3=C(N2C)C=CC=C3)CCN(C)C)C1 | C19H21ClN2
